US09085586B2
A solution of ethyl 2-[3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0^[2,7]]trideca-1(9),2(7),3,5,10,12-hexaen-12-yl]acetate (2.10 g, 7.28 mmol, 1.00 equiv) in POCl3 (23 mL) was stirred for 1 h at 90° C. in an oil bath. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue dissolved in EtOAc was poured into a cooled saturated aqueous sodium bicarbonate, extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography with ethyl acetate/petroleum ether (1:5) to afford ethyl 2-[3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0^[2,7]]trideca-1(9),2(7),3,5,10,12-hexaen-12-yl]acetate (1.61 g, 72%) as a white solid. LCMS (ES, m/z): 307 and 309 (M+H+).

reactant | ethyl 2-[3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0^[2,7]]trideca-1(9),2(7),3,5,10,12-hexaen-12-yl]acetate | 7.28 mmol, 2.10 g, 1.00 equiv | OC=1C=2C=3C=C(C=CC3SC2N=CN1)CC(=O)OCC | C14H12N2O3S
reactant | POCl3 | 23 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | ethyl 2-[3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0^[2,7]]trideca-1(9),2(7),3,5,10,12-hexaen-12-yl]acetate | 1.61 g, 72% | ClC=1C=2C=3C=C(C=CC3SC2N=CN1)CC(=O)OCC | C14H11ClN2O2S
